US07696243B2
Intermediate 3.1: 6-Carboxyhexyl(triphenyl)phosphonium bromide
A solution of 6-bromohexanoic acid (18 mmol, 3.50 g) and triphenylphosphine (18 mmol, 4.71 g) in acetonitrile (18 mL) was refluxed for 18 h. The reaction mixture was then cooled down, the off-white solid formed filtered. Flash chromatography over silica gel (EtOAc then MeOH) afforded the product as a white solid (1.08 g, 86%).

reactant | 6-bromohexanoic acid | 18 mmol, 3.50 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | triphenylphosphine | 18 mmol, 4.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | 18 mL | C(C)#N | C2H3N
product | 6-Carboxyhexyl(triphenyl)phosphonium bromide | 1.08 g, 86% | [Br-].C(=O)(O)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H27O2P.BrH/c26-25(27)20-12-1-2-13-21-28(22-14-6-3-7-15-22,23-16-8-4-9-17-23)24-18-10-5-11-19-24;/h3-11,14-19H,1-2,12-13,20-21H2;1H
